US08957059B2
Step A: Preparation of 2,2,2-Trifluoro-1-[3-(2-methoxy-phenyl)-pyrrolidin-1-yl]-ethanone
To 3-(2-Methoxy-phenyl)-pyrrolidine hydrochloride (5.4 g, 25.3 mmol) in CH2Cl2 (125 mL) at 0° C. was added Et3N (7.4 mL, 53.1 mmol) and TFAA (5.8 g, 3.9 mL, 27.8 mmol). After 15 h, H2O was added and the mixture extracted with CH2Cl2 (2×). The combined organics were dried. Silica gel chromatography (5-30% EtOAc in hexanes) gave 7.56 of the title compound.

reactant | 3-(2-Methoxy-phenyl)-pyrrolidine hydrochloride | 25.3 mmol, 5.4 g | Cl.COC1=C(C=CC=C1)C1CNCC1
reactant | Et3N | 53.1 mmol, 7.4 mL | CCN(CC)CC | C6H15N
reactant | TFAA | 27.8 mmol, 3.9 mL, 5.8 g | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | H2O | O | H2O
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-[3-(2-methoxy-phenyl)-pyrrolidin-1-yl]-ethanone | FC(C(=O)N1CC(CC1)C1=C(C=CC=C1)OC)(F)F | C13H14F3NO2
